US07109229B2
(b) 3-(1H-Indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
A 1.0 M solution of KOtBu in THF (6 mL, 6 mmol) was added to a solution of 2-(1H-indol-3-yl)-acetamide (296 mg, 1.70 mmol) and (1-methyl-1H-indol-7-yl)-oxo-acetic acid ethyl ester (381 mg, 1.65 mmol) in DMF (20 mL). The deep red-orange solution was stirred 7 h at 60° C., allowed to cool overnight and 1N HCl added. The orange mixture was poured into EtOAc, and the EtOAc layer was separated and washed with 1N HCl, water (3×), saturated aq NaHCO3 (2×) and brine, dried (MgSO4), filtered and concentrated onto SiO2. Flash chromatography (1:1 EtOAc:hexanes) afforded the title compound as a 1:1 solvate with EtOAc (514 mg, 72%) as a bright orange-red solid. Heating under vacuum at 70° C. afforded material which was used without further purification. 1H NMR (400 MHz, DMSO-d6) 11.85 (br s, 1H), 11.13 (s, 1H), 7.93 (d, J=3 Hz, 1H), 7.61 (dd, J=8, 1.5 Hz, 1H), 7.33 (d, J=8 Hz, 1H), 7.26 (d, J=3 Hz, 1H), 6.93–7.0 (m, 2H), 6.88 (d, J=7 Hz, 1H), 6.46–6.52 (d, J=7 Hz, 1H), 6.35 (d, J=7 Hz, 1H), 3.68 (s, 3H). MS (electrospray, m/z) 342.1 (M++1), 340.2 (M−−1). HRMS 342.1249 (M++1, calcd for C21H16N3O2 342.1242).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 6 mmol, 6 mL | C1CCOC1 | C4H8O
reactant | 2-(1H-indol-3-yl)-acetamide | 1.70 mmol, 296 mg | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | (1-methyl-1H-indol-7-yl)-oxo-acetic acid ethyl ester | 1.65 mmol, 381 mg | C(C)OC(C(=O)C=1C=CC=C2C=CN(C12)C)=O | C13H13NO3
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(1H-Indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C21H15N3O2
